US05916889
2-(4-(3-(10,11-Dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-1-piperazinyl)-3-pyridinecarboxylic acid dihydrochloride
A mixture of 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine (4.54 g, 16.7 mmol), 2-piperazinylnicotinic acid methyl ester 3.7 g, 16.7 mmol), dry potassium carbonate (6.92 g, 50.1 mmol), sodium iodide (2.5 g, 16.7 mmol) and 2-butanone (50 ml) was heated at reflux temperature for 60 h. After cooling to room temperature, toluene (100 ml) and water (100 ml) were added. The organic layer was separated, washed with water (2×50 ml) and evaporated in vacuo. The crude product was purified by column chromatography on silica gel using a mixture of toluene and ethyl acetate (3:1) containing triethylamine (2.5%) as eluent. This afforded 2.3 g (30%) of 2-(4-(3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-1-piperazinyl)-3-pyridinecarboxylic acid methyl ester as an oil. A mixture of the above ester (2.3 g, 5.04 mmol) dissolved in a mixture of 2 N sodium hydroxide (8.32 ml, 16.63 mmol) and ethanol (25 ml) was stirred at room temperature for 16 h. The ethanol was evaporated in vacuo, and the remainder was diluted with water (50 ml). 2 N Hydrochloric acid (20 ml) was added, and the solution was washed with diethyl ether (25 ml). The aqueous phase was extracted with dichloromethane (3×30 ml). The combined organic extracts were dried (MgSO4) and evaporated in vacuo to afford a foam. This was crystallized from tetrahydrofuran, filtered and dried, affording 1.20 g (50%) of the title compound.

reactant | 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine | 16.7 mmol, 4.54 g | ClCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H18ClN
reactant | 2-piperazinylnicotinic acid methyl ester | 16.7 mmol, 3.7 g | COC(C1=C(N=CC=C1)N1CCNCC1)=O | C11H15N3O2
reactant | potassium carbonate | 50.1 mmol, 6.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 16.7 mmol, 2.5 g | [I-].[Na+]
reactant | sodium hydroxide | 16.63 mmol, 2 N, 8.32 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | 2-(4-(3-(10,11-Dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propyl)-1-piperazinyl)-3-pyridinecarboxylic acid dihydrochloride | 1.20 g, 50% | Cl.Cl.C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CCCN3CCN(CC3)C3=NC=CC=C3C(=O)O | InChI=1S/C27H30N4O2.2ClH/c32-27(33)23-9-5-14-28-26(23)30-19-17-29(18-20-30)15-6-16-31-24-10-3-1-7-21(24)12-13-22-8-2-4-11-25(22)31;;/h1-5,7-11,14H,6,12-13,15-20H2,(H,32,33);2*1H
